US08440666B2
4-Chloro-2-(2-{[1-(pyridin-4-yl)propyl]amino}ethyl)-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide (40 mg, 0.0873 mmol) was added to lithium aluminum hydride (4.3 mg, 0.104 mmol) in tetrahydrofuran (1 mL) at 0° C., and the resulting reaction solution was stirred at room temperature for 1.5 hours. After completion of the reaction, the reaction solution was mixed with water, ethyl acetate and anhydrous magnesium sulfate and filtered, and the filtrate was evaporated under reduced pressure. The resulting residue was purified by preparative thin layer chromatography (chloroform/methanol=13/1) to give the desired product (9.5 mg, 25% yield).

reactant | 2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-(pyridin-4-ylmethyl)acetamide | 0.0873 mmol, 40 mg | ClC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28ClN5O2
reactant | lithium aluminum hydride | 0.104 mmol, 4.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-(2-{[1-(pyridin-4-yl)propyl]amino}ethyl)-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 9.5 mg, 25% yield | ClC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CCNC(CC)C2=CC=NC=C2)=O | C24H34ClN5O
